* ============================================================
* 8-bit AMA5 (APPROX5) Approximate Adder, k=4
* Lower 4 bits: sum[i] = b[i] (just wires, no gates)
* Carry: c4 = a[3]
* Upper 4 bits: exact RCA
* PTM 45nm HP BSIM4 models
* ============================================================

.include '../common/supply.inc'
.include '../../models/cmos45/ptm45_hp.pm'

.param wn = 90n    $ NMOS width
.param wp = 180n   $ PMOS width
.param lch = 45n    $ Channel length

* ---- Full Adder Subcircuit (28T Mirror) ----
.subckt FA A B Cin Sum Cout vdd vss

Mp_ainv Abar A vdd vdd pmos w={wp} l={lch}
Mn_ainv Abar A vss vss nmos w={wn} l={lch}

Mp_binv Bbar B vdd vdd pmos w={wp} l={lch}
Mn_binv Bbar B vss vss nmos w={wn} l={lch}

Mn_tg1 P B Abar vss nmos w={wn} l={lch}
Mp_tg1 P B A vdd pmos w={wp} l={lch}

Mn_tg2 P Bbar A vss nmos w={wn} l={lch}
Mp_tg2 P Bbar Abar vdd pmos w={wp} l={lch}

Mp_pinv Pbar P vdd vdd pmos w={wp} l={lch}
Mn_pinv Pbar P vss vss nmos w={wn} l={lch}

Mn_tg3 Sum Cin Pbar vss nmos w={wn} l={lch}
Mp_tg3 Sum Cin P vdd pmos w={wp} l={lch}

Mp_cinv Cinbar Cin vdd vdd pmos w={wp} l={lch}
Mn_cinv Cinbar Cin vss vss nmos w={wn} l={lch}

Mn_tg4 Sum Cinbar P vss nmos w={wn} l={lch}
Mp_tg4 Sum Cinbar Pbar vdd pmos w={wp} l={lch}

Mn_c1 Cout_int A vss vss nmos w={wn} l={lch}
Mn_c2 Cout_int B Cout_int1 vss nmos w={wn} l={lch}
Mn_c3 Cout_int1 Cin vss vss nmos w={wn} l={lch}
Mn_c4 Cout_int P Cout_int1 vss nmos w={wn} l={lch}

Mp_c1 Cout_int Abar vdd vdd pmos w={wp} l={lch}
Mp_c2 Cout_int Bbar Cout_int2 vdd pmos w={wp} l={lch}
Mp_c3 Cout_int2 Cinbar vdd vdd pmos w={wp} l={lch}
Mp_c4 Cout_int2 Pbar Cout_int2 vdd pmos w={wp} l={lch}

Mp_coutinv Cout Cout_int vdd vdd pmos w={wp} l={lch}
Mn_coutinv Cout Cout_int vss vss nmos w={wn} l={lch}

.ends FA

* ============================================================
* AMA5 Top-Level Circuit
* ============================================================

* --- Lower 4 bits: sum[i] = b[i] (wires) ---
* In SPICE, we use zero-ohm resistors to create named connections
* s0 = b0, s1 = b1, s2 = b2, s3 = b3
Rwire0 b0 s0 0
Rwire1 b1 s1 0
Rwire2 b2 s2 0
Rwire3 b3 s3 0

* --- Carry from approximate part: c4 = a[3] (wire) ---
Rwire_c4 a3 c4 0

* --- Upper 4 bits: exact RCA ---
XFA4 a4 b4 c4 s4 c5 vdd vss FA
XFA5 a5 b5 c5 s5 c6 vdd vss FA
XFA6 a6 b6 c6 s6 c7 vdd vss FA
XFA7 a7 b7 c7 s7 cout vdd vss FA

* Load capacitances
Cs0 s0 0 {cload}
Cs1 s1 0 {cload}
Cs2 s2 0 {cload}
Cs3 s3 0 {cload}
Cs4 s4 0 {cload}
Cs5 s5 0 {cload}
Cs6 s6 0 {cload}
Cs7 s7 0 {cload}
Ccout cout 0 {cload}

* ---- Testbench: Representative test vectors ----
Va0 a0 0 dc 0
Va1 a1 0 dc 0
Va2 a2 0 dc 0
Va3 a3 0 dc 0
Va4 a4 0 dc 0
Va5 a5 0 dc 0
Va6 a6 0 dc 0
Va7 a7 0 dc 0

Vb0 b0 0 dc 0
Vb1 b1 0 dc 0
Vb2 b2 0 dc 0
Vb3 b3 0 dc 0
Vb4 b4 0 dc 0
Vb5 b5 0 dc 0
Vb6 b6 0 dc 0
Vb7 b7 0 dc 0

.tran 10p {period}

.control
let num_tests = 16
let test_a = vector(16)
let test_b = vector(16)

let test_a[0] = 0
let test_b[0] = 0
let test_a[1] = 255
let test_b[1] = 255
let test_a[2] = 255
let test_b[2] = 0
let test_a[3] = 0
let test_b[3] = 255
let test_a[4] = 170
let test_b[4] = 85
let test_a[5] = 85
let test_b[5] = 170
let test_a[6] = 15
let test_b[6] = 15
let test_a[7] = 240
let test_b[7] = 15
let test_a[8] = 128
let test_b[8] = 128
let test_a[9] = 127
let test_b[9] = 127
let test_a[10] = 100
let test_b[10] = 155
let test_a[11] = 200
let test_b[11] = 100
let test_a[12] = 1
let test_b[12] = 1
let test_a[13] = 255
let test_b[13] = 1
let test_a[14] = 123
let test_b[14] = 45
let test_a[15] = 254
let test_b[15] = 254

let idx = 0
dowhile idx < num_tests
  let aval = test_a[idx]
  let bval = test_b[idx]

  alter Va0 dc = (floor(aval) mod 2) * 1.0
  alter Va1 dc = (floor(aval / 2) mod 2) * 1.0
  alter Va2 dc = (floor(aval / 4) mod 2) * 1.0
  alter Va3 dc = (floor(aval / 8) mod 2) * 1.0
  alter Va4 dc = (floor(aval / 16) mod 2) * 1.0
  alter Va5 dc = (floor(aval / 32) mod 2) * 1.0
  alter Va6 dc = (floor(aval / 64) mod 2) * 1.0
  alter Va7 dc = (floor(aval / 128) mod 2) * 1.0

  alter Vb0 dc = (floor(bval) mod 2) * 1.0
  alter Vb1 dc = (floor(bval / 2) mod 2) * 1.0
  alter Vb2 dc = (floor(bval / 4) mod 2) * 1.0
  alter Vb3 dc = (floor(bval / 8) mod 2) * 1.0
  alter Vb4 dc = (floor(bval / 16) mod 2) * 1.0
  alter Vb5 dc = (floor(bval / 32) mod 2) * 1.0
  alter Vb6 dc = (floor(bval / 64) mod 2) * 1.0
  alter Vb7 dc = (floor(bval / 128) mod 2) * 1.0

  tran 10p {period}
  let idx = idx + 1
end

* ---- Phase 3: Worst-case timing + power characterization ----
* AMA5: lower 4 bits are wired (no FAs), upper 4 bits exact RCA
* Step 1: settle with A=0xFF, B=0x00 (cout=0)
alter Va0 dc = 1
alter Va1 dc = 1
alter Va2 dc = 1
alter Va3 dc = 1
alter Va4 dc = 1
alter Va5 dc = 1
alter Va6 dc = 1
alter Va7 dc = 1
alter Vb0 dc = 0
alter Vb1 dc = 0
alter Vb2 dc = 0
alter Vb3 dc = 0
alter Vb4 dc = 0
alter Vb5 dc = 0
alter Vb6 dc = 0
alter Vb7 dc = 0
tran 10p 5n

* Step 2: trigger — B switches 0x00→0xFF
alter Vb0 dc = 1
alter Vb1 dc = 1
alter Vb2 dc = 1
alter Vb3 dc = 1
alter Vb4 dc = 1
alter Vb5 dc = 1
alter Vb6 dc = 1
alter Vb7 dc = 1
tran 10p 5n
meas tran tpd_rise WHEN v(cout)=0.5 RISE=1
meas tran tpd_fall WHEN v(cout)=0.5 FALL=1
meas tran avg_power AVG power FROM=0 TO=5n
echo "TPD_RISE = $&tpd_rise"
echo "TPD_FALL = $&tpd_fall"
echo "AVG_POWER = $&avg_power"

wrdata results/raw/cmos_approx/ama5_8bit_cmos45.csv v(s0) v(s1) v(s2) v(s3) v(s4) v(s5) v(s6) v(s7) v(cout)
.endc

.end
